US07601736B2
8-amino-6-methyl-3,4-dihydro-pyrano[3,4-c]pyridine-1-on (200 g, 1.122 mmol) was dissolved in 6 mL of anhydrous acetonitrile, and then dropwisely added with triethylamine (0.63 mL, 4.490 mmol) and actic anhydride (0.42 mL, 4.490 mmol) in this order and then heated to reflux for about 20 hours under the nitrogen atmosphere. The mixture was concentrated under reduced pressure, added with 15 mL of a saturated solution of sodium carbonate and 15 mL of distilled water and then extracted twice with 40 mL of methylene chloride. The resulting organic layer was dried with anhydrous sodium sulfate, and filtered. A silica gel column chromatography (5% MeOH/MC) was performed on the resulting residue and 219 mg (89%) of N-(1-oxo-6-methyl-3,4-dihydro-pyrano[3,4-c]pyridine-8-yl)-acetamide was obtained in white solid.

reactant | 8-amino-6-methyl-3,4-dihydro-pyrano[3,4-c]pyridine-1-on | 1.122 mmol, 200 g | NC=1N=C(C=C2C1C(OCC2)=O)C | C9H10N2O2
reactant | triethylamine | 4.490 mmol, 0.63 mL | C(C)N(CC)CC | C6H15N
reactant | actic anhydride | 4.490 mmol, 0.42 mL | C(C)(=O)OC(C)=O | C4H6O3
solvent | acetonitrile | 6 mL | C(C)#N | C2H3N
product | N-(1-oxo-6-methyl-3,4-dihydro-pyrano[3,4-c]pyridine-8-yl)-acetamide | 219 mg, 89% | O=C1OCCC=2C1=C(N=C(C2)C)NC(C)=O | C11H12N2O3
